US04962203
Step 7. Preparation of Methyl 2-(3-formyl-5-propylphenoxy)acetate
A mixture of 3-hydroxy-5-propyl-benzaldehyde potassium carbonate (0.7 g) and methyl bromoacetate (0.8 ml) in methyl ethyl ketone (6 ml) were heated at 70° for 4 hours. The reaction was filtered and evaporated. Flash chromatography of the residue using 30% ether in hexane afforded the title compound.

reactant | 3-hydroxy-5-propyl-benzaldehyde potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].OC=1C=C(C=O)C=C(C1)CCC.[K+]
reactant | methyl bromoacetate | 0.8 ml | BrCC(=O)OC | C3H5BrO2
solvent | methyl ethyl ketone | 6 ml | C(C)C(=O)C | C4H8O
product | Methyl 2-(3-formyl-5-propylphenoxy)acetate | C(=O)C=1C=C(OCC(=O)OC)C=C(C1)CCC | C13H16O4
